US07745479B2
Step 1: 4-(3-Methyl-4-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
Diisopropyl azodicarboxylate (10.56 mL, 1.6 eq.) was added to a cold (0° C.) mixture of 3-methyl-4-nitrophenol (5 g, 1.0 eq.), 1-tert-butyloxycarbonyl-4-hydroxy-piperidine (9.96 g, 1.6 eq.) and triphenylphosphine (13.85 g, 1.6 eq.) in tetrahydrofuran (205 mL). After 1 h stirring, the mixture was evaporated to dryness and dissolved in tert-butylmethylether. The organic phase was washed with 0.5M sodium hydroxide solution and 5% sodium chloride solution, dried over sodium sulfate, filtered and evaporated to dryness. The product was recrystallized from methanol to yield 9.498 g (88%) as white crystals. MS (m/e): 336.2 (M, 10%).

reactant | Diisopropyl azodicarboxylate | 10.56 mL, 1.6 eq. | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-methyl-4-nitrophenol | 5 g, 1.0 eq. | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | 1-tert-butyloxycarbonyl-4-hydroxy-piperidine | 9.96 g, 1.6 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 13.85 g, 1.6 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 205 mL | O1CCCC1 | C4H8O
product | 4-(3-Methyl-4-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
